US06670447B2
Synthesis of N-benzoyl-L-valine-(S)-1-(p-tolyl)ethylamide (Compound No. 32)
(S)-3-Benzoyl-4-isopropyl-2,5-oxazolidinedione (N-benzoyl-L-valine-NCA) (100 mg, 0.40 mmol) was dissolved in ethyl acetate (2.0 mL), followed by the addition of a solution of (S)-1-(p-tolyl)ethylamine (55 mg, 0.40 mmol) and N-methylmorpholine (61 mg, 0.60 mmol) in ethyl acetate (2.0 mL) at 0° C. The resulting mixture was stirred for 30 minutes. The reaction mixture was poured into 1 N hydrochloric acid (10 mL), followed by extraction with ethyl acetate (10 mL). The organic layer was washed successively with a saturated aqueous solution of sodium hydrogencarbonate (10 mL) and a saturated aqueous solution of sodium chloride (10 mL), and was then dried over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure to afford the title compound (134 mg, 98%) as white crystals.

reactant | (S)-3-Benzoyl-4-isopropyl-2,5-oxazolidinedione | 0.40 mmol, 100 mg | C(C1=CC=CC=C1)(=O)N1C(OC([C@@H]1C(C)C)=O)=O | C13H13NO4
reactant | (S)-1-(p-tolyl)ethylamine | 0.40 mmol, 55 mg | C1(=CC=C(C=C1)[C@H](C)N)C | C9H13N
reactant | N-methylmorpholine | 0.60 mmol, 61 mg | CN1CCOCC1 | C5H11NO
reactant | hydrochloric acid | 1 N, 10 mL | Cl | ClH
solvent | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
product | N-benzoyl-L-valine-(S)-1-(p-tolyl)ethylamide | 134 mg, 98% | C1(=CC=C(C=C1)[C@H](C)NC([C@@H](NC(C1=CC=CC=C1)=O)C(C)C)=O)C | C21H26N2O2
